US06831193B2
N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]-N-{[4′-(trifluoromethyl)[1,1′-biphenyl]-4-yl]methyl}amine
4′-(Trifluoromethyl)[1,1′-biphenyl]-4-carbaldehyde and (1S)-1,2,3,4-tetrahydro-1-naphthalenylamine were processed as described in Example 1A to provide the title compound.

reactant | 4′-(Trifluoromethyl)[1,1′-biphenyl]-4-carbaldehyde | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C=O)(F)F | C14H9F3O
reactant | (1S)-1,2,3,4-tetrahydro-1-naphthalenylamine | [C@@H]1(CCCC2=CC=CC=C12)N | C10H13N
product | N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]-N-{[4′-(trifluoromethyl)[1,1′-biphenyl]-4-yl]methyl}amine | [C@@H]1(CCCC2=CC=CC=C12)NCC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C24H22F3N
